US04360470
To a solution of 0.60 g (0.00188 mol) of (Z)-3α,5β,7α-pregn-17(20)-ene-3,7-diol and 30 ml of dry toluene was added 1.8 ml (ca. 1.84 g=0.023 mol) of dry pyridine, 1.8 ml (ca. 1.66 g=0.016 mol) of acetic anhydride and 0.016 g (0.00013 mol) of 4-dimethylaminopyridine. The mixture was stirred under argon atmosphere for 18 hr. and then poured into 100 ml of water, acidified with 1 N HCl and extracted with 3×50 ml of ethyl acetate. The combined organic phases were washed with water until neutral and then dried over anhydrous sodium sulfate. Filtration and evaporation of the solvent in vacuo gave 0.789 g of crude product. TLC revealed an incomplete reaction so the above procedure was repeated. The product was recrystallized from methanol to afford 0.566 g (75%) of (Z)-3α,5β,7α-pregn-17(20)-ene-3,7-diol diacetate. The analytical sample, recrystallized twice from methanol, had mp 92°-93° C.

reactant | (Z)-3α,5β,7α-pregn-17(20)-ene-3,7-diol | 0.00188 mol, 0.60 g | C\C=C/1\CC[C@H]2[C@@H]3[C@@H](C[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)O | C21H34O2
reactant | pyridine | 0.023 mol, 1.8 ml, ca. 1.84 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.016 mol, 1.8 ml, ca. 1.66 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 1 N | Cl | ClH
reactant | water | 100 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.00013 mol, 0.016 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-3α,5β,7α-pregn-17(20)-ene-3,7-diol diacetate | 0.566 g, 75% | C(C)(=O)O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC/C(=C/C)/[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OC(C)=O | C25H38O4
